US05426111
A solution of 4-methoxy-4-(3-hydroxyprop-1-ynyl)tetrahydropyran (10.8 g, 44.9 mmol), prepared as in step 3, in dry THF (100 mL) was cooled to -75° C., and RED-AL (sodium bis(2-methoxyethoxy)aluminum hydride, Aldrich Chemical Co., 20 mL of 3.4M solution in toluene, 68 mmol) was added under a dry argon atmosphere. The cooling bath was removed and the reaction was warmed to 0° C. and quenched by addition of crushed ice and saturated aqueous NH4Cl. The resulting two-phase mixture was extracted with ethyl acetate (4×90 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo. Purification by chromatography on silica gel (100 g, 10% ethyl acetate: hexanes) provided 4-methoxy-4-(3-hydroxy -trans-prop-1-enyl)tetrahydropyran(3.71 g, 34 %) as a colorless oil.

reactant | 4-methoxy-4-(3-hydroxyprop-1-ynyl)tetrahydropyran | 44.9 mmol, 10.8 g | COC1(CCOCC1)C#CCO | C9H14O3
reactant | RED-AL | 68 mmol, 3.4M, 20 mL | COCCO[AlH2-]OCCOC.[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-methoxy-4-(3-hydroxy -trans-prop-1-enyl)tetrahydropyran | 3.71 g, 34 % | COC1(CCOCC1)\C=C\CO | C9H16O3
